US03960845
Methyl 7β-(2'-bromo-1'-chloroethylidenimino)-3-methyl-3-cephem-4-carboxylate was prepared from methyl 7β-bromoacetamido-3-methyl-3-cephem-4-carboxylate(1.34 g), phosphorus pentachloride(1.5 g) and quinoline(1 ml) according to the same procedure as in Example 23 - (1) and dissolved in tetrahydrofuran(80 ml). To this solution was added a methanol solution of lithium methoxide prepared from lithium(200 mg) and methanol(20 ml) at -70°C. The reaction mixture was stirred at -70°C. for 30 minutes, then trifluoroacetic acid(2.5 ml) was added and stirring was continued at room temperature for 10 minutes. The mixture was poured into water and extracted with ethyl acetate. The extracts were washed with 10 % dipotassium hydrogen phosphate solution and water, dried over sodium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel to afford 250 mg of methyl 7β-acetamido-7α-methoxy-3-methyl-3-cephem-4-carboxylate. IR νmaxliquid cm -1 : 3220, 1770, 1730, 1690. NMR(CDCl3) δ ppm: 2.13(6H, singlet), 3.20 and 3.37(2H, AB-quartet, J=17 Hz), 3.55(3H, singlet), 3.83(3H, singlet), 5.07(1H, singlet), 7.52(1H, singlet).

reactant | methyl 7β-bromoacetamido-3-methyl-3-cephem-4-carboxylate | 1.34 g | BrCC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC)C1=O | C11H13BrN2O4S
reactant | phosphorus pentachloride | 1.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | quinoline | 1 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | lithium methoxide | C[O-].[Li+]
reactant | lithium | 200 mg | [Li] | Li
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | methyl 7β-acetamido-7α-methoxy-3-methyl-3-cephem-4-carboxylate | 250 mg | C(C)(=O)N[C@]1([C@@H]2N(C(=C(CS2)C)C(=O)OC)C1=O)OC | C12H16N2O5S
